US04065508
13.2 g of potassium-tert.-butoxide is added portionwise, with slight external cooling (ice water) and with the introduction of nitrogen, to a solution of 20.4 g of 4-phenoxyphenol in 200 ml of dimethylsulphoxide. After potassium-phenoxy-phenolate has formed, with complete dissolving of the potassium-tert.-butoxide, there is added dropwise to the phenolate within 30 minutes at 20°-22° C, with stirring, 21.5 g of 1-bromo-3-phenoxypropane, and the whole is stirred at 30° C for a further 16 hours. In further processing, the reaction mixture is poured, with stirring, into 800 ml of ice water, and the mixture is repeatedly extracted with dichloromethane. The combined dichloromethane phases are thereupon repeatedly washed with ice-cold 10% potassium hydroxide solution, water and saturated sodium chloride solution; they are then dried over sodium sulphate and the solvent is completely removed in vacuo. The 1-phenoxy-4-(3-phenoxy)-1-propoxy-benzene then solidifying in crystalline form is further purified by recrystallisation in isopropanol; m.p. 69°-71° C.

reactant | potassium tert.-butoxide | 13.2 g | [K].CC(C)([O-])C
reactant | 4-phenoxyphenol | 20.4 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
solvent | dimethylsulphoxide | 200 ml | CS(=O)C | C2H6OS
product | potassium phenoxy-phenolate | [K].O(C1=CC=CC=C1)C1=C(C=CC=C1)[O-] | InChI=1S/C12H10O2.K/c13-11-8-4-5-9-12(11)14-10-6-2-1-3-7-10;/h1-9,13H;/p-1
